US04237160
3-Hydroxymethyl-8-mercapto-dibenzo[b,f]thiepin
Repeat the process of Example 1, substituting an equivalent quantity of 8-mercaptodibenzo[b,f]thiepin-3-carboxylic acid for the 10,11-dihydro-dibenzo[b,f]thiepin-3-carboxylic acid, to obtain the title product.

reactant | 8-mercaptodibenzo[b,f]thiepin-3-carboxylic acid | SC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | C15H10O2S2
reactant | 10,11-dihydro-dibenzo[b,f]thiepin-3-carboxylic acid | C1=CC(=CC=2SC3=C(CCC21)C=CC=C3)C(=O)O | C15H12O2S
product | 3-Hydroxymethyl-8-mercapto-dibenzo[b,f]thiepin | OCC=1C=CC2=C(SC3=C(C=C2)C=C(C=C3)S)C1 | C15H12OS2
